US05208250
5-[(3,5-Dibromo-4-hydroxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 99 using 3,5-dibromo-4-hydroxybenzaldehyde (8.4 g, 30 mmoles) and 1-methyl hydantoin (3.5 g, 30 mmoles) to afford the pure product (8.2 g), mp 271°-277° C.

reactant | 3,5-dibromo-4-hydroxybenzaldehyde | 30 mmoles, 8.4 g | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | 1-methyl hydantoin | 30 mmoles, 3.5 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
product | 5-[(3,5-Dibromo-4-hydroxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione | 8.2 g | BrC=1C=C(C=C(C1O)Br)C=C1C(NC(N1C)=O)=O | C11H8Br2N2O3
